US05559131
N-[2-(3,4-Dichlorophenyl)-4-[4-(N-hexylacetamido)piperidino]butyl]-N-methylbenzamide hydrochloride.
To N-[2-(3,4-dichlorophenyl)-4-(4-hexylaminopiperidino)butyl]-N-methylbenzamide in dichloromethane (5 mL) was added triethylamine (0.39 mL) and acetic anhydride (0.39 mL). After being stirred for 2 hours, the mixture was diluted with 1N sodium hydroxide and was extracted with dichloromethane. The combined organic extracts were washed (brine), dried, and evaporated. The resulting material was chromatographed, with dichloromethane:methanol (97:3) as the eluent, to give the title compound (0.210 g) as a white solid after evaporation from methanolic hydrogen chloridel MS: m/z=560(M+1). Analysis for C31H43Cl2N3O2.1.5 HCl: Calculated: C, 60.51; H, 7.28; N, 6.82; Found: C, 60.50; H, 7.38; N, 6.85.

reactant | N-[2-(3,4-dichlorophenyl)-4-(4-hexylaminopiperidino)butyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)NCCCCCC | C29H41Cl2N3O
reactant | triethylamine | 0.39 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.39 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | N-[2-(3,4-Dichlorophenyl)-4-[4-(N-hexylacetamido)piperidino]butyl]-N-methylbenzamide hydrochloride | 0.210 g | Cl.ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N(C(C)=O)CCCCCC | InChI=1S/C31H43Cl2N3O2.ClH/c1-4-5-6-10-18-36(24(2)37)28-16-20-35(21-17-28)19-15-27(26-13-14-29(32)30(33)22-26)23-34(3)31(38)25-11-8-7-9-12-25;/h7-9,11-14,22,27-28H,4-6,10,15-21,23H2,1-3H3;1H
